US06472386B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-thiazol-4-yl]methyl]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenylethynyl)-thiazole (126 mg) and homopiperazine (19 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenylethynyl)-thiazole | 126 mg | ClCC=1N=C(SC1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C15H14ClNO3S
reactant | homopiperazine | 19 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-thiazol-4-yl]methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C#CC=1SC=C(N1)CN1CCN(CCC1)CC=1N=C(SC1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C35H38N4O6S2
